US06673818B2
To a mixture of {[2,6-difluoro-4-(5-methyl-3-phenylisoxazol-4-yl)phenyl]sulfonyl}methyl acetate (1.5 g, 3.9 mmol) in THF (25 mL) and methanol (25 mL) was added a solution of lithium hydroxide (0.50 g, 12 mmol) in water (4 mL). The resulting solution was stirred at room temperature for 1 hour. Additional solution of lithium hydroxide (0.60 g, 14 mmol) in water (8 mL) was added, followed by solid hydroxylamine sulfonic acid (1.6 g, 14.1 mmol) and methanol (5 mL). The reaction mixture was stirred overnight and poured into water (250 mL). The 2,6-difluoro-4-(5-methyl-3-phenyl-isoxazol-4-yl)benzenesulfonamide was isolated as a white solid (1.08 g, 85%). MP 226.1-226.2° C. 1H NMR (CD3OD/400 MHz) 7.36-7.46 (m, 5H), 6.95 (d, 2H, J=9.4), 2.51 (s, 3H). ESHRMS m/z 351.0621 (M+H+, Calcd 351.0615). Anal. Calcd for C,16H12F2N2O3S: C, 54.85; H, 3.45; N, 8.00; Found: C, 54.95; H, 3.51, N 7.81.

reactant | {[2,6-difluoro-4-(5-methyl-3-phenylisoxazol-4-yl)phenyl]sulfonyl}methyl acetate | 3.9 mmol, 1.5 g | C(C)(=O)OCS(=O)(=O)C1=C(C=C(C=C1F)C=1C(=NOC1C)C1=CC=CC=C1)F | C19H15F2NO5S
reactant | lithium hydroxide | 12 mmol, 0.50 g | [OH-].[Li+]
reactant | lithium hydroxide | 14 mmol, 0.60 g | [OH-].[Li+]
reactant | hydroxylamine sulfonic acid | 14.1 mmol, 1.6 g | N(O)S(=O)(=O)O | H3NO4S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 4 mL | O | H2O
solvent | water | 8 mL | O | H2O
solvent | water | 250 mL | O | H2O
solvent | methanol | 5 mL | CO | CH4O
product | 2,6-difluoro-4-(5-methyl-3-phenyl-isoxazol-4-yl)benzenesulfonamide | FC1=C(C(=CC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)F)S(=O)(=O)N | C16H12F2N2O3S
